US06313122B1
A. N1-(3-Nitrobenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine
Using the procedure described in Example 93, Part A, 3-nitrobenzoyl chloride (2.2 mmol) and N1-(4-tert-butylbenzoyl)-1,2-benzenediamine (1.8 mmol) yielded 427 mg (56%) of the title compound.

reactant | 3-nitrobenzoyl chloride | 2.2 mmol | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | N1-(4-tert-butylbenzoyl)-1,2-benzenediamine | 1.8 mmol | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
product | N1-(3-Nitrobenzoyl)-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine | 427 mg, 56% | [N+](=O)([O-])C=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=CC1 | C24H23N3O4
